US05318992
Dissolve ornithine (13.3 g, 0.1 mol) in 1N sodium hydroxide (200 mL, 0.2 mol). Add a solution of CuSO4.5H2O (12.5 g, 0.05 mol) in water (50 mL). Stir the mixture until solution is complete. Treat with benzyl chloroformate (17.1 g, 0.1 mol) and stir at room temperature until reaction is complete. Suction filter, wash the residue with 1:3.5 methanol-water and dry at 60° C. to give the copper complex. Suspend the copper complex in water, treat with excess hydrogen sulfide, heat to boiling, then cool to room temperature. Mix with 1N sodium hydroxide and filter. Stir the filtrate with a slight excess of 1N hydrochloric acid and filter. Wash the residue with water and dry to give N5 -benzyloxycarbonyl-ornithine.

reactant | ornithine | 0.1 mol, 13.3 g | N[C@@H](CCCN)C(=O)O | C5H12N2O2
reactant | sodium hydroxide | 0.2 mol, 1N, 200 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 0.1 mol, 17.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrogen sulfide | S | H2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | N5 -benzyloxycarbonyl-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)O | C13H18N2O4
